US07642270B2
3-Benzylamino-propionic acid ethyl ester (2.0 g, 9.6 mmol) and 4-chloro-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester (2.2 g, 9.6 mmol) were combined in DCM (50 mL) and triethylamine (1.5 g, 14.5 mmol) was added. After 14 h, water (25 mL) was added and the organic layer was separated, dried (MgSO4), and concentrated. Chromatography on silica (0-30% EtOAc/hexanes gradient) provided 2.91 g of 4-[benzyl-(2-ethoxycarbonyl-ethyl)-amino]-2-methylsulfanyl-pyridine-5-carboxylic acid ethyl ester. 1H NMR (400 MHz, CDCl3) δ (ppm): 8.46 (s, 1H), 7.23-7.33 (m, 5H), 4.75 (s, 2H), 4.21 (q, 2H, J=7.2 Hz), 4.06-4.15 (m, 2H), 3.77 (t, 2H, J=7.2 Hz), 2.66-2.70 (app t, 2H), 2.45 (s, 3H), 1.19-1.29 (m, 6H).

reactant | 3-Benzylamino-propionic acid ethyl ester | 9.6 mmol, 2.0 g | C(C)OC(CCNCC1=CC=CC=C1)=O | C12H17NO2
reactant | 4-chloro-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester | 9.6 mmol, 2.2 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)Cl | C8H9ClN2O2S
reactant | triethylamine | 14.5 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | water | 25 mL | O | H2O
reactant | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-[benzyl-(2-ethoxycarbonyl-ethyl)-amino]-2-methylsulfanyl-pyridine-5-carboxylic acid ethyl ester | 2.91 g | C(C)OC(=O)C=1C(=CC(=NC1)SC)N(CCC(=O)OCC)CC1=CC=CC=C1 | C21H26N2O4S
